US07381746B2
56 mg of sodium azide was added to 250 mg of (1R,2R,3S,5R,6R)-2-azido-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 5 mL of N,N-dimethylformamide, and the mixture was stirred for 30 minutes at room temperature. After 100 mL of diethyl ether was added to the reaction solution, this ether solution was washed four times with water and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=10:1), thereby yielding 175 mg of (1R,2R,3R,5R,6R)-2,3-diazido-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | sodium azide | 56 mg | [N-]=[N+]=[N-].[Na+]
reactant | (1R,2R,3S,5R,6R)-2-azido-6-fluoro-3-trifluoromethanesulfonyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 250 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@@H]1OS(=O)(=O)C(F)(F)F)(C(=O)OCC)F)N=[N+]=[N-] | C13H15F4N3O7S
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (1R,2R,3R,5R,6R)-2,3-diazido-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 175 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1N=[N+]=[N-])(C(=O)OCC)F)N=[N+]=[N-] | C12H15FN6O4
